US07304156B2
In a 25 mL-volume glass flask equipped with a stirrer, a thermometer and a reflux condenser were placed 1.00 g (3.43 mmol.) of 4-(4-fluorophenyl)-2-hydroxy-6-isopropyl-5-methoxycarbonylpyrimidine, 0.5 mL (3.9 mmol.) of thionyl chloride, 3.44 mL of toluene, and 0.11 mL of N,N-dimethylformamide. The mixture was heated to 80° C. for 3 hours, to carry out reaction. After the reaction was complete, the reaction mixture was cooled to room temperature, and poured into an ice/water mixture. The resulting aqueous mixture was neutralized with a saturated aqueous sodium hydrogen carbonate solution. The neutralized aqueous mixture was extracted with ethyl acetate. The ethyl acetate portion was separated, washed with a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate. The dried ethyl acetate portion was filtered and concentrated under reduced pressure, to obtain 0.80 g of 2-chloro-4-(4-fluorophenyl)-6-isopropyl-5-methoxycarbonylpyrimidine as a colorless crystalline product. The yield was 76% (based on the amount of 4-(4-fluorophenyl)-2-hydroxy-6-isopropyl-5-methoxycarbonylpyrimidine).

reactant | 4-(4-fluorophenyl)-2-hydroxy-6-isopropyl-5-methoxycarbonylpyrimidine | 3.43 mmol, 1.00 g | FC1=CC=C(C=C1)C1=NC(=NC(=C1C(=O)OC)C(C)C)O | C15H15FN2O3
reactant | thionyl chloride | 3.9 mmol, 0.5 mL | S(=O)(Cl)Cl | Cl2OS
reactant | toluene | 3.44 mL | C1(=CC=CC=C1)C | C7H8
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 0.11 mL | CN(C=O)C | C3H7NO
product | 2-chloro-4-(4-fluorophenyl)-6-isopropyl-5-methoxycarbonylpyrimidine | 0.80 g, yield was 76% | ClC1=NC(=C(C(=N1)C1=CC=C(C=C1)F)C(=O)OC)C(C)C | C15H14ClFN2O2
